US07851473B2
(2) 2-(3-Methylphenyl)-2-oxoethyl thiocyanate
A solution of 2-bromo-1-(3-methylphenyl)ethanone (3.03 g, 14.2 mmol) and potassium thiocyanate (1.45 g, 14.2 mmol) in ethanol (30 ml) was stirred at 80° C. for 2 hours. After cooling to room temperature, water (30 ml) was poured to the reaction mixture, and crystals were collected by filtration and washed with water to give 2.29 mg (84.2%) of the desired product as a solid.

reactant | 2-bromo-1-(3-methylphenyl)ethanone | 14.2 mmol, 3.03 g | BrCC(=O)C1=CC(=CC=C1)C | C9H9BrO
reactant | potassium thiocyanate | 14.2 mmol, 1.45 g | [S-]C#N.[K+]
reactant | water | 30 ml | O | H2O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-(3-Methylphenyl)-2-oxoethyl thiocyanate | 2.29 mg, 84.2% | CC=1C=C(C=CC1)C(CSC#N)=O | C10H9NOS
